US08110571B2
To a solution of 3.14 g of 4-amino-3-nitrophenol in 50 cm3 of acetone are added 5 g of 2,6-dichlorobenzenesulfonyl chloride. The reaction medium is stirred for five minutes and then placed in a bath of ice-water so as not to exceed 30° C. during the addition of 2.9 cm3 of triethylamine. The formation of a precipitate is observed, and the mixture is stirred for twenty-four hours at a temperature in the region of 20° C. 500 mg of 2,6-dichlorobenzenesulfonyl chloride are added and, after stirring for two hours, the insoluble material is filtered off, washed with three times 30 cm3 of acetone and set aside*. The filtrate is evaporated to dryness under reduced pressure (2 kPa) and the residue is taken up in 1 L of dichloromethane and then washed with three times 40 cm3 of water. The organic phase is dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure (2 kPa). 3.28 g of 4-amino-3-nitrophenyl 2,6-dichlorobenzenesulfonate are obtained in the form of orange crystals, the characteristics of which are as follows:

reactant | 4-amino-3-nitrophenol | 3.14 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | 2,6-dichlorobenzenesulfonyl chloride | 5 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | triethylamine | 2.9 cm3 | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzenesulfonyl chloride | 500 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | acetone | 50 cm3 | CC(=O)C | C3H6O
product | 4-amino-3-nitrophenyl 2,6-dichlorobenzenesulfonate | 3.28 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC(=C(C=C1)N)[N+](=O)[O-] | C12H8Cl2N2O5S
